US07521446B2
(3R)-3-{benzyl[(1R)-1-phenylethyl]amino}butanol
tert-Butyl (3R)-3-{benzyl[(1R)-1-phenylethyl]amino}butanoate (6.2 g, 17.6 mmol) was dissolved in THF (100 mL). The 1L-flask was purged with N2 and cooled to 0° C. Lithium aluminum hydride (2.7 g, 69.8 mmol) was slowly added over 5 minutes. The reaction was allowed to stir at 0° C. for 1 hour, and then heated to 60° C. for 1 hour. The reaction was cooled to room temperature and diluted with Et2O (500 mL). This solution was quenched with a mixture of celite:Na2SO4 10 H2O (1:1) added over 15 minutes. The solution was then filtered and the mother liquor condensed to yield 3.9 g (13.8 mmol, 78%) of the title compound.

reactant | tert-Butyl (3R)-3-{benzyl[(1R)-1-phenylethyl]amino}butanoate | 17.6 mmol, 6.2 g | C(C1=CC=CC=C1)N([C@@H](CC(=O)OC(C)(C)C)C)[C@H](C)C1=CC=CC=C1 | C23H31NO2
reactant | Lithium aluminum hydride | 69.8 mmol, 2.7 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | Et2O | 500 mL | CCOCC | C4H10O
product | (3R)-3-{benzyl[(1R)-1-phenylethyl]amino}butanol | 13.8 mmol, 3.9 g, 78% | C(C1=CC=CC=C1)N([C@@H](CCO)C)[C@H](C)C1=CC=CC=C1 | C19H25NO
